US08217065B2
B. (4-{6-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethyl-phenoxy)-acetic acid methyl ester
To a 5 mL microwave vial was added 0.2010 g (0.369 mmol) of (4-{6-[N′-(4-Chloro-benzoyl)-hydrazinocarbonyl]-1H-benzoimidazol-2-yl}-3,5-dimethyl-phenoxy)-acetic acid methyl ester, 5 mL of THF, and 0.1890 g (0.793 mmol) of burgess reagent. The suspension was placed in the microwave at 150° C. for 20 min. The brownish solution was concentrated and the residue was purified by silica gel (ACN/DCM, 1:9 to 5:5) to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.10 (s, 6 H) 3.72 (s, 4 H) 4.86 (s, 2 H) 6.81 (s, 2 H) 7.68-7.74 (m, 2.5 H) 7.87 (d, J=8.46 Hz, 0.5 H) 7.97-8.04 (m, 1 H) 8.15-8.24 (m, 2.5 H) 8.45 (s, 0.5 H) 12.93 (d, J=15.66 Hz, 1 H). MS (m/z) 489.1 M (+1), tR=1.40, Meth 10

reactant | (4-{6-[N′-(4-Chloro-benzoyl)-hydrazinocarbonyl]-1H-benzoimidazol-2-yl}-3,5-dimethyl-phenoxy)-acetic acid methyl ester | 0.369 mmol, 0.2010 g | COC(COC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(=O)NNC(C2=CC=C(C=C2)Cl)=O)C)=O | C26H23ClN4O5
reactant | burgess reagent | 0.793 mmol, 0.1890 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4-{6-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethyl-phenoxy)-acetic acid methyl ester | COC(COC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C=2OC(=NN2)C2=CC=C(C=C2)Cl)C)=O | C26H21ClN4O4
